US04212828
Ethyl 4-(2,5-dimethoxyphenyl)butyrate
To an ethanol solution (180 ml) of 4-(2,5-dimethoxyphenyl)butyric acid (52.4 g, 0.23 mole), several drops of conc. sulfuric acid are added, and the mixture is boiled for 5 hours. After cooling in the air, a saturated aqueous solution of sodium hydrogen carbonate is added for neutralization, and the mixture is concentrated under reduced pressure. The residue is diluted with ether (300 ml), washed with a saturated aqueous solution of sodium hydrogen carbonate (50 ml×2), water (50 ml×2) and a saturated aqueous solution of sodium chloride (50 ml×1) and dried over anhydrous magnesium sulfate. After filtration and evaporation, a dark red oil (55 g) is obtained, which is subjected to distillation under reduced pressure twice for purification to obtain the objective compound as a pale yellow oil (37 g, 63%). B.P. 155°-158° C. (3 mmHg). IRνmaxfilm cm-1 : 1720 (CO2Et). NMR (in CDCl3): 1.19 (3H, t, J=7.5Hz, CO2CH2CH3), 1.56-2.06 (2H, m, CH2CH2CO2Et), 2.06-2.46 (2H, m, CH2CH2CO2Et), 2.46-2.76 (2H, broad t, J=6.6Hz, CH2CH2CH2CO2Et), 3.67 (6H, s, OCH3 ×2), 4.15 (2H, q, J=7.5Hz, CO2CH2CH3), 6.15 (3H, s, aromatic proton).

reactant | 4-(2,5-dimethoxyphenyl)butyric acid | 0.23 mole, 52.4 g | COC1=C(C=C(C=C1)OC)CCCC(=O)O | C12H16O4
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | ethanol | 180 ml | C(C)O | C2H6O
catalyst | sulfuric acid | several drops | S(O)(O)(=O)=O | H2O4S
product | Ethyl 4-(2,5-dimethoxyphenyl)butyrate | 55 g | COC1=C(C=C(C=C1)OC)CCCC(=O)OCC | C14H20O4
